US06331521B1
To a solution of 2-amino-4′-methoxyacetophenone hydrochloride (5.33 g) in pyridine (4.28 ml), triethylamine (3.68 ml) and dichloromethane (50 ml) was added dropwise a solution of terephthalic acid monomethyl ester (5.25 g) in dichloromethane (10 ml) at 0° C. The reaction mixture was allowed to warm to room temperature, and stirred for 3 hours. To the reaction mixture was added dichloromethane (200 ml), washed with 1N-sodium hydroxide (100 ml×2), saturated hydrogen carbonate aqueous solution (100 ml×2) and brine, and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The solids were slurried in n-hexane, and collected by filtration to give 2-(4-methoxycarbonyl-benzamido)-4′-methoxyacetophenone (7.97 g).

reactant | 2-amino-4′-methoxyacetophenone hydrochloride | 5.33 g | Cl.NCC(=O)C1=CC=C(C=C1)OC
reactant | terephthalic acid monomethyl ester | 5.25 g | COC(C1=CC=C(C(=O)O)C=C1)=O | C9H8O4
solvent | pyridine | 4.28 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 3.68 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(4-methoxycarbonyl-benzamido)-4′-methoxyacetophenone | 7.97 g | COC(=O)C1=CC=C(C(=O)NCC(=O)C2=CC=C(C=C2)OC)C=C1 | C18H17NO5
